US07479559B2
2-(4-methylpiperazinyl)-benzaldehyde
A solution of 1-methylpiperazine (139.5 mL, 1.26 moles), potassium carbonate (145 g, 1.05 moles), and 2-fluorobenzaldehyde (73.7 mL, 0.7 moles) in water (700 mL) was heated at reflux for 18 hours. The solution was cooled to room temperature, extracted with methylene chloride (2×700 mL), and the combined organic layers were washed with water (2×700 mL). The organic layer was dried (MgSO4), filtered, and the solvent was removed in vacuo to afford 140 g of a dark oil. 1H NMR (400 MHz, CDCl3) 7.79 (dd, J=1.2, 7.9 Hz, 1H), 7.52 (td, J=1.5, 7.5 Hz, 1H), 7.11 (m, 2H), 3.12 (t, J=4.8 Hz, 4H), 2.63 (brs, 4H), 2.39 (s, 3H); 13C NMR (100 MHz, CDCl3) 191.6, 155.8, 135.2, 130.0, 128.9, 122.8, 119.2, 55.3, 54.1, 46.3.

reactant | 1-methylpiperazine | 1.26 moles, 139.5 mL | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 1.05 moles, 145 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluorobenzaldehyde | 0.7 moles, 73.7 mL | FC1=C(C=O)C=CC=C1 | C7H5FO
solvent | water | 700 mL | O | H2O
product | 2-(4-methylpiperazinyl)-benzaldehyde | 140 g | CN1CCN(CC1)C1=C(C=O)C=CC=C1 | C12H16N2O
